US04788320
Diethyl 2-(3-bromo-2-chloro-4,5-difluorobenzoyl)malonate
To the magnesium ethoxide (3.93 g) suspension was added a solution of diethyl malonate (4.65 g) in anhydrous toluene (30 ml) dropwise during 25 minutes at 20° to 25° C. The mixture was stirred at 50° to 60° C. for 3 hours, and then cooled in an acetone-dry ice bath. A solution of 3-bromo-2-chloro-4,5-difluorobenzoyl chloride (7.65 g) in anhydrous toluene (15 ml) was added dropwise to the resulting solution at -16° to 0° C. during 25 minutes. The mixture was stirred for 2.5 hours below 0° C., then further stirred at room temperature for 40 minutes, and then mixed with ice water (15 ml) containing concentrated sulfuric acid (1 ml). The resulting organic layer was collected and the water layer was extracted with toluene. The combined organic layer was washed with water, dried over anhydrous sodium sulfate and then concentrated to give the title compound (11.44 g) as pale yellow oil.

reactant | magnesium ethoxide | 3.93 g | [O-]CC.[Mg+2].[O-]CC
reactant | diethyl malonate | 4.65 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-bromo-2-chloro-4,5-difluorobenzoyl chloride | 7.65 g | BrC=1C(=C(C(=O)Cl)C=C(C1F)F)Cl | C7HBrCl2F2O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl 2-(3-bromo-2-chloro-4,5-difluorobenzoyl)malonate | 11.44 g | BrC=1C(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C1F)F)Cl | C14H12BrClF2O5
